US05780472
1-[(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(3-acetoxy-4-methoxyphenyl)piperazine
Phenyl-N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)carbamate and 1-(3-acetoxy-4-methoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound. 25 yield: 62% Example 54

reactant | Phenyl-N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1C(=NC(=C(C1)CC)C)OC)=O | C16H18N2O3
reactant | 1-(3-acetoxy-4-methoxyphenyl)piperazine | C(C)(=O)OC=1C=C(C=CC1OC)N1CCNCC1 | C13H18N2O3
product | 1-[(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(3-acetoxy-4-methoxyphenyl)piperazine | C(C)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC(=C(C=C1)OC)OC(C)=O | C23H30N4O5
